US07253165B2
Synthesis of (R)-1-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(3-fluoro-benzylamino)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dichloroethane, 3-fluorobenzylamine, and ethanol, essentially as described above in Example 57. Purity by LC/MS=96%, [M+H]+=411.

reactant | (R)-6-fluoro-3-(3-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC(=CC=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | ethanol | C(C)O | C2H6O
reactant | 3-fluorobenzylamine | FC=1C=C(CN)C=CC1 | C7H8FN
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | (R)-1-[3-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(3-fluoro-benzylamino)-propan-2-ol | FC1=CC2=C(C(=NO2)C=2C=C(OC[C@@H](CNCC3=CC(=CC=C3)F)O)C=CC2)C=C1 | C23H20F2N2O3
